US07531532B2
4-(Pyrrolidin-1-ylmethyl)piperidine-1-carboxylic acid {4-[2-fluoro-4-(3-phenylacetylureido)phenoxy]pyridin-2-yl}amide
4-(Pyrrolidin-1-ylmethyl)piperidine-1-carboxylic acid [4-(4-amino-2-fluorophenoxy)pyridin-2-yl]amide (50 mg) was dissolved in N,N-dimethylformamide (1.5 ml) under a nitrogen atmosphere, and then 0.25 M phenylacetyl isocyanate in hexane (1.45 ml) was added, followed by stirring for 64.5 hrs. The reaction mixture was partitioned between ethyl acetate (100 ml) and a saturated aqueous solution of sodium hydrogencarbonate (50 ml). The organic layer was washed with a saturated aqueous solution of sodium hydrogencarbonate (50 ml), water (50 ml) and brine (50 ml) in this order, and dried over anhydrous sodium sulfate. The solvent was evaporated to give a residue, which was then purified by silica gel column chromatography (Fuji Silysia NH, eluent; ethyl acetate). Fractions containing the target compound were concentrated to give a residue, which was then suspended in diethyl ether (3 ml) and hexane (3 ml). The solid was filtered off, and dried under aeration to provide the titled compound (49.6 mg) as white powder.

reactant | 4-(Pyrrolidin-1-ylmethyl)piperidine-1-carboxylic acid [4-(4-amino-2-fluorophenoxy)pyridin-2-yl]amide | 50 mg | NC1=CC(=C(OC2=CC(=NC=C2)NC(=O)N2CCC(CC2)CN2CCCC2)C=C1)F | C22H28FN5O2
reactant | phenylacetyl isocyanate | 0.25 M | C1(=CC=CC=C1)CC(=O)N=C=O | C9H7NO2
solvent | N,N-dimethylformamide | 1.5 ml | CN(C=O)C | C3H7NO
solvent | hexane | 1.45 ml | CCCCCC | C6H14
solvent | diethyl ether | 3 ml | C(C)OCC | C4H10O
solvent | hexane | 3 ml | CCCCCC | C6H14
product | 4-(Pyrrolidin-1-ylmethyl)piperidine-1-carboxylic acid {4-[2-fluoro-4-(3-phenylacetylureido)phenoxy]pyridin-2-yl}amide | 49.6 mg | FC1=C(OC2=CC(=NC=C2)NC(=O)N2CCC(CC2)CN2CCCC2)C=CC(=C1)NC(=O)NC(CC1=CC=CC=C1)=O | C31H35FN6O4
